US08703797B2
N-(2,6-Dichloropyridin-4-yl)-2-(4,8-dimethylquinolin-2-yl)hydrazinecarboxamide:
A solution of 2-hydrazinyl-4,8-dimethylquinoline (110 mg, 0.60 mmol) and 111 mg (1.0 eq) of 2,6-dichloro-4-isocyanatopyridine was reacted as outlined in Scheme 1 above to give the desired title compound. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ ppm 2.50 (s, 3 H) 2.56 (s, 3 H) 6.79 (s, 1 H) 7.18 (t, J=7.62 Hz, 1 H) 7.41 (d, J=7.03 Hz, 1 H) 7.70 (d, J=8.20 Hz, 2 H) 8.72 (s, 2 H).

reactant | 2-hydrazinyl-4,8-dimethylquinoline | 0.60 mmol, 110 mg | N(N)C1=NC2=C(C=CC=C2C(=C1)C)C | C11H13N3
reactant | 2,6-dichloro-4-isocyanatopyridine | 111 mg, 1.0 eq | ClC1=NC(=CC(=C1)N=C=O)Cl | C6H2Cl2N2O
product | N-(2,6-Dichloropyridin-4-yl)-2-(4,8-dimethylquinolin-2-yl)hydrazinecarboxamide | ClC1=NC(=CC(=C1)NC(=O)NNC1=NC2=C(C=CC=C2C(=C1)C)C)Cl | C17H15Cl2N5O
